US08334310B2
To a suspension of (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-amino-tetrahydro-2H-pyran-2,4,5-triyl triacetate hydrochloride (0.500 g, 1.31 mmol) in CH2Cl2 (20 mL) was added 4-(dimethylamino)pyridine (0.478 g, 3.91 mmol) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.300 g, 1.57 mmol) and 2-phenylacetic acid (0.2132 g, 1.57 mmol). The reaction was stirred for 12 h. Additional CH2Cl2 (80 mL) was added and the organic layer was washed once with saturated aqueous NaHCO3 (10 mL). The organic layer was then dried (MgSO4) and concentrated in vacuo. Flash chromatography of the crude material on silica gel (3:2 EtOAc:hexanes) followed by crystallization (EtOAc/hexanes) afforded (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-(2-phenylacetamido)-tetrahydro-2H-pyran-2,4,5-triyl triacetate as a white solid (0.418 g, 69% yield).

reactant | (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-amino-tetrahydro-2H-pyran-2,4,5-triyl triacetate hydrochloride | 1.31 mmol, 0.500 g | Cl.C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1N)OC(C)=O)OC(C)=O)COC(C)=O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.57 mmol, 0.300 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-phenylacetic acid | 1.57 mmol, 0.2132 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 3.91 mmol, 0.478 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-(2-phenylacetamido)-tetrahydro-2H-pyran-2,4,5-triyl triacetate | 0.418 g, 69% yield | C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1NC(CC1=CC=CC=C1)=O)OC(C)=O)OC(C)=O)COC(C)=O | C22H27NO10
